US05155113
Preparation of 4-acetoxy-2-benzoyloxy-5-chloropyridine
The general procedure of Example 20 was repeated using 500 mg of 4-acetoxy-5-chloro-2-pyridone and 0.37 ml of benzoyl chloride to produce 720 mg of the title compound in a yield of 93%.

reactant | 4-acetoxy-5-chloro-2-pyridone | 500 mg | C(C)(=O)OC1=CC(NC=C1Cl)=O | C7H6ClNO3
reactant | benzoyl chloride | 0.37 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-acetoxy-2-benzoyloxy-5-chloropyridine | 720 mg, yield of 93% | C(C)(=O)OC1=CC(=NC=C1Cl)OC(C1=CC=CC=C1)=O | C14H10ClNO4
